US08703796B2
(377a) 6-Methoxy-N-methyl-3-nitropyridin-2-amine
Prepared analogously to example 154a from 2-chloro-6-methoxy-3-nitropyridine and 2 N methylamine (solution in THF) in THF

reactant | 2-chloro-6-methoxy-3-nitropyridine | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | methylamine | 2 N | CN | CH5N
solvent | THF | C1CCOC1 | C4H8O
product | 6-Methoxy-N-methyl-3-nitropyridin-2-amine | COC1=CC=C(C(=N1)NC)[N+](=O)[O-] | C7H9N3O3
